US04921852
To a solution of (2S,4S)-4-acetylthio-2-formyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.00 g) and 1,2-ethanedithiol (0.36 ml) in dichloromethane (20 ml) was added boron trifluoride etherate (0.1 ml), and the solution was stirred for 14 hours at ambient temperature. To the mixture was added saturated aqueous sodium hydrogen carbonate and the organic layer was separated, and washed with brine. The organic layer was dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (50 ml) and eluted with a mixture of acetone and dichloromethane (2:98, V/V) to give (2S,4S)-4-acetylthio-2-(1,3-dithiolan-2-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.14 g).

reactant | (2S,4S)-4-acetylthio-2-formyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.00 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=O | C15H16N2O6S
reactant | 1,2-ethanedithiol | 0.36 ml | C(CS)S | C2H6S2
reactant | boron trifluoride etherate | 0.1 ml | B(F)(F)F.CCOCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2S,4S)-4-acetylthio-2-(1,3-dithiolan-2-yl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.14 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1SCCS1 | C17H20N2O5S3
